US09029545B2
Ethyl 2-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridine-5-carboxylate
To a stirring mixture of ethyl 4-amino-2-bromo-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 66) (5.84 g, 18.53 mmol) in THF (110 mL) and DMF (55 mL) was added sodium tert-butoxide (4.45 g, 46.3 mmol) and benzenesulfonyl chloride (4.75 mL, 37.1 mmol). The resulting mixture was stirred at RT for 30 min. The reaction mixture was quenched with saturated ammonium chloride solution (ca. 150 mL) and extracted with DCM (80 mL×3). The combined organic layers were dried and concentrated. The residue was purified via normal phase chromatography, eluting with 0-30% ethyl acetate in DCM, to give the title compound (6.27 g). LCMS (A) m/z: 455/457 [M+1]+, Rt 1.35 min (acidic).

reactant | ethyl 4-amino-2-bromo-6-methylthieno[2,3-b]pyridine-5-carboxylate | 18.53 mmol, 5.84 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2)Br | C11H11BrN2O2S
reactant | sodium tert-butoxide | 46.3 mmol, 4.45 g | CC(C)([O-])C.[Na+]
reactant | benzenesulfonyl chloride | 37.1 mmol, 4.75 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridine-5-carboxylate | 6.27 g | BrC1=CC=2C(=NC(=C(C2NS(=O)(=O)C2=CC=CC=C2)C(=O)OCC)C)S1 | C17H15BrN2O4S2
